US05391552
1-[4,4-Bis(4-fluorophenyl)butyl]-4-(2-hydroxy-3-phenylaminopropyl)piperazine (compound 6):
3.86 g (0.01 mol) of 1-[4,4-bis(4-fluorophenyl)butyl]-4-(2,3-epoxypropyl)piperazine and 0.93 g (0.01 mol) of aniline were refluxed with heating with 200 ml of DMF for 21 hours in the presence of a catalytic amount of an alkali such as potassium carbonate. DMF was distilled off under reduced pressure, and a residue was extracted with ethyl acetate. After washing with water and drying, the ethyl acetate was distilled off under reduced pressure to obtain 5 g of a crude subject compound of a viscous liquid. The obtained compound was refined by flush chromatography and fractional thin-layer chromatography with solvent mixtures of ethyl acetate--methanol and methylene chloride --methanol respectively to obtain 0.5 g of the subject compound in a viscous liquid state.

reactant | 1-[4,4-bis(4-fluorophenyl)butyl]-4-(2,3-epoxypropyl)piperazine | 0.01 mol, 3.86 g | FC1=CC=C(C=C1)C(CCCN1CCN(CC1)CC1CO1)C1=CC=C(C=C1)F | C23H28F2N2O
reactant | aniline | 0.01 mol, 0.93 g | NC1=CC=CC=C1 | C6H7N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 1-[4,4-Bis(4-fluorophenyl)butyl]-4-(2-hydroxy-3-phenylaminopropyl)piperazine | 0.5 g | FC1=CC=C(C=C1)C(CCCN1CCN(CC1)CC(CNC1=CC=CC=C1)O)C1=CC=C(C=C1)F | C29H35F2N3O
